US07112582B2
To a suspension of thiazolidine-2-carboxylic acid (39.9 g, 0.30 mol) in 1,000 ml of acetic acid was added a solution of 31.0 g (0.45 mol) of sodium nitrite in 500 ml of water over 13 minutes at room temperature and stirred for 5 hours. The reaction solution was concentrated under reduced pressure. Acetone (500 ml) was added to the residue and the precipitate was filtered through a pad of Celite. The pad was washed with acetone (500 ml). The filtrate was concentrated under reduced pressure to dryness and crude 3-nitrosothiazolidin-2-carboxylic acid was obtained as a yellow solid.

reactant | thiazolidine-2-carboxylic acid | 0.30 mol, 39.9 g | S1C(NCC1)C(=O)O | C4H7NO2S
reactant | sodium nitrite | 0.45 mol, 31.0 g | N(=O)[O-].[Na+]
solvent | acetic acid | 1,000 ml | C(C)(=O)O | C2H4O2
solvent | water | 500 ml | O | H2O
product | 3-nitrosothiazolidin-2-carboxylic acid | N(=O)N1C(SCC1)C(=O)O | C4H6N2O3S
